US07915267B2
4-oxo-N-[(3-piperazin-1-ylphenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide dihydrochloride
To a suspension of 1,1-dimethylethyl 4-[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]piperazine-1-carboxylate obtained in Reference Example 115 (2.40 g, 6.86 mmol) in ethyl acetate (10 mL)-THF (50 ml)-methanol (40 mL) was added 4N hydrogen chloride-ethyl acetate (10.4 mL), and the mixture was stirred at room temperature for 4 hr, and then at 50° C. for 2 hr. Diethyl ether (about 100 mL) was added to the reaction mixture, and the precipitated solid was collected by filtration to give the title compound as a white powder (2.18 g, 97%).

reactant | 1,1-dimethylethyl 4-[3-({[(4-oxo-3,4-dihydroquinazolin-2-yl)carbonyl]amino}methyl)phenyl]piperazine-1-carboxylate | O=C1NC(=NC2=CC=CC=C12)C(=O)NCC=1C=C(C=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C25H29N5O4
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | methanol | 40 mL | CO | CH4O
reactant | hydrogen chloride-ethyl acetate | 4N, 10.4 mL | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | Diethyl ether | about 100 mL | C(C)OCC | C4H10O
product | 4-oxo-N-[(3-piperazin-1-ylphenyl)methyl]-3,4-dihydroquinazoline-2-carboxamide dihydrochloride | 2.18 g, 97% | Cl.Cl.O=C1NC(=NC2=CC=CC=C12)C(=O)NCC1=CC(=CC=C1)N1CCNCC1 | InChI=1S/C20H21N5O2.2ClH/c26-19-16-6-1-2-7-17(16)23-18(24-19)20(27)22-13-14-4-3-5-15(12-14)25-10-8-21-9-11-25;;/h1-7,12,21H,8-11,13H2,(H,22,27)(H,23,24,26);2*1H
